US04782057
To nitric acid (density=1.50) cooled with dry ice and methanol is added 1,2,3,4-tetrahydro-1-oxo-2-naphthaleneacetic acid at -10 to -15° C. The resulting mixture is stirred below 0° C. for 40 minutes and poured into ice. The precipitated crystals are collected by filtration to give 7-nitro-1,2,3,4-tetrahydro-1-oxo-2-naphthaleneacetic acid.

reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | dry ice | C(=O)=O | CO2
reactant | 1,2,3,4-tetrahydro-1-oxo-2-naphthaleneacetic acid | O=C1C(CCC2=CC=CC=C12)CC(=O)O | C12H12O3
solvent | methanol | CO | CH4O
product | 7-nitro-1,2,3,4-tetrahydro-1-oxo-2-naphthaleneacetic acid | [N+](=O)([O-])C1=CC=C2CCC(C(C2=C1)=O)CC(=O)O | C12H11NO5
